US08314092B2
To a solution of tert-butyl 4-(3-methoxy-2,2-dimethyl-3-oxopropyl)piperazine-1-carboxylate (58.0 g, 193.08 mmoles) in isopropyl alcohol (150 mL) add a 4M dioxane solution of hydrogen chloride ((4 equiv); 193.08 mL, 772.31 mmoles) over 15 minutes, observing gas evolution and a fine precipitate. Heat at 55° C. for 3 h to give a white precipitate. Cool to 10° C. and collect the white solid by filtration, wash with further isopropyl alcohol (30 mL), then EtOAc. Dry in a vacuum oven at 45° C. for 1 h to give methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate dihydrochloride (31 g, 59% yield). MS (m/z): =201.1 (M+1).

reactant | tert-butyl 4-(3-methoxy-2,2-dimethyl-3-oxopropyl)piperazine-1-carboxylate | 193.08 mmoles, 58.0 g | COC(C(CN1CCN(CC1)C(=O)OC(C)(C)C)(C)C)=O | C15H28N2O4
reactant | dioxane | 4M | O1CCOCC1 | C4H8O2
reactant | hydrogen chloride | 772.31 mmoles, 193.08 mL, 4 equiv | Cl | ClH
solvent | isopropyl alcohol | 150 mL | C(C)(C)O | C3H8O
product | methyl 2,2-dimethyl-3-(piperazin-1-yl)propanoate dihydrochloride | 31 g, 59% yield | Cl.Cl.CC(C(=O)OC)(CN1CCNCC1)C | InChI=1S/C10H20N2O2.2ClH/c1-10(2,9(13)14-3)8-12-6-4-11-5-7-12;;/h11H,4-8H2,1-3H3;2*1H
